US06936602B1
To a solution of methyl 1-(3-ethoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (475 mg) in a mixture of THF-methanol (5-10 ml) was added 1N sodium hydroxide solution (3.0 ml) at room temperature, and the mixture was stirred at 50° C. for 62 hours. After concentration under reduced pressure, to the mixture was added 1N hydrochloric acid (3.0 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. After concentration under reduced pressure, the resulting crystals were collected by filtration. The crystals were washed with diisopropyl ether and hexane to give 1-(3-ethoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (390 mg) as yellow crystals.

reactant | methyl 1-(3-ethoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 475 mg | C(C)OCCCN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C28H37NO5
reactant | sodium hydroxide | 1N, 3.0 ml | [OH-].[Na+]
solvent | THF methanol | 5-10 ml | C1CCOC1.CO
product | 1-(3-ethoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 390 mg | C(C)OCCCN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)O | C27H35NO5
